US07691882B2
3-(3-(4-(6-Methyl-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a solution of 3-ethynyl-pyridin-2-ylamine (30 mg, 0.25 mmol) described in Manufacturing Example 1-2-3 in anhydrous tetrahydrofuran (5 mL) was added (4-(6-methyl-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride (222 mg, 0.76 mmol) described in Manufacturing Example 3-1-5 at room temperature. Triethylamine (142 μL, 1.0 mmol) was added dropwise to the reaction solution, and stirred overnight at room temperature. The reaction mixture was partitioned into water and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:3 then 1:1) to obtain the title compound (10.5 mg, 11%).

reactant | 3-ethynyl-pyridin-2-ylamine | 0.25 mmol, 30 mg | C(#C)C=1C(=NC=CC1)N | C7H6N2
reactant | (4-(6-methyl-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride | 0.76 mmol, 222 mg | CC1=CC=CC(=N1)OCC1=CC=C(C=C1)CC(=NO)Cl | C15H15ClN2O2
reactant | Triethylamine | 1.0 mmol, 142 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-(6-Methyl-pyridin-2-yloxymethyl)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 10.5 mg, 11% | CC1=CC=CC(=N1)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C22H20N4O2
